US07223788B2
1-[3-Fluoro-4-(1-methylbutoxy)phenyl]ethanone
0.058 g of NaH was added to a solution of 0.176 g of 2-pentanol in 2 ml of DMF, and the solution was stirred at room temperature for 1 hour. Then 0.312 g of 3,4-difluoroacetophenone was added, and the mixture was stirred at room temperature overnight. The reaction solution was taken up in ethyl acetate and washed twice with water. The organic phase was dried over sodium sulfate and concentrated in vacuo. The resulting compound was reacted further without further purification.

reactant | NaH | 0.058 g | [H-].[Na+]
reactant | 2-pentanol | 0.176 g | CC(CCC)O | C5H12O
reactant | 3,4-difluoroacetophenone | 0.312 g | CC(=O)C1=CC(=C(C=C1)F)F | C8H6F2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[3-Fluoro-4-(1-methylbutoxy)phenyl]ethanone | FC=1C=C(C=CC1OC(CCC)C)C(C)=O | C13H17FO2
